US03978097
600 g of 1-acetoxy-5-isopropoxy-3-methyl-2-pentene are hydrogenated in 2000 cc of ethanol with 60 g of Raney nickel at 71 atmospheric pressure and 70°C for 24 hours. After this period, another 30 g of catalyst are added and hydrogenation is effected under the same conditions for a further 20 hours. After filtration, the reaction mixture is evaporated and the residue is distilled. Gas-chromatographically pure 1-acetoxy-5-isopropoxy-3-methyl-pentane is obtained. B.P.: 106°-108°/12 mm Hg. nD20 = 1.4286

reactant | 1-acetoxy-5-isopropoxy-3-methyl-2-pentene | 600 g | C(C)(=O)OCC=C(CCOC(C)C)C | C11H20O3
solvent | ethanol | 2000 cc | C(C)O | C2H6O
catalyst | Raney nickel | 60 g | [Ni] | Ni
product | 1-acetoxy-5-isopropoxy-3-methyl-pentane | C(C)(=O)OCCC(CCOC(C)C)C | C11H22O3
